US05514691
5-Amino-4-bromo-3-ethylisoxazole was prepared from 5-amino-3ethylisoxazole and N-bromosuccinimide as described in Example 1a.

reactant | 5-amino-3ethylisoxazole | NC1=CC(=NO1)CC | C5H8N2O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 5-Amino-4-bromo-3-ethylisoxazole | NC1=C(C(=NO1)CC)Br | C5H7BrN2O
